US07759389B2
7-Benzenesulfonyl-chroman-4-one from Preparation 1 above (500 mg, 1.73 mmol) was dissolved in 10 mL of tetrahydrofuran (THF). Diethyl cyanophosphonate (789 uL, 5.21 mmol) and lithium cyanide (10.42 mL, 5.21 mmol) were added, and the reaction mixture was stirred for 10 minutes at room temperature. Water (150 (mL) was added, and the aqueous mixture was extracted twice with 200 mL of EtOAc. The combined organic layers were washed with brine, dried over MgSO4, and the solvent was evaporated under reduced pressure. The residue was dissolved in 5 mL THF, and 70 mL of MeOH was added. SmI2 (52 mL, 5.21 mmol) was then added over five minutes, and the reaction mixture was stirred for 10 minutes at room temperature. The reaction was quenched by addition of 20 mL 1 N HCl, and the resulting aqueous mixture was extracted with EtOAc and 1 N Na2S2O3. The organic phase was dried over MgSO4, and solvent was removed under reduced pressure. The residue eluted through silica gel using 40% EtOAc in hexanes, and solvent was removed under reduced pressure to yield 300 mg (1 mmol, 58%) of 7-benzenesulfonyl-chroman-4-carbonitrile. MS: 300 (M+H)+.

reactant | 7-Benzenesulfonyl-chroman-4-one | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2C(CCOC2=C1)=O | C15H12O4S
reactant | Diethyl cyanophosphonate | 5.21 mmol, 789 uL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | lithium cyanide | 5.21 mmol, 10.42 mL | [C-]#N.[Li+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 7-benzenesulfonyl-chroman-4-carbonitrile | 1 mmol, 300 mg, 58% | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2C(CCOC2=C1)C#N | C16H13NO3S
